US08735426B2
Step 4: Synthesis of ethyl-2-(4-amino-3-fluorophenyl)-2-phenylacetate
Ethyl 2-phenyl-2-(3-fluoro-4-nitrophenyl)acetate was dissolved in a 1:1 mixture of EtOH and EA (465 mL) and hydrogenation was carried out in an H-cube (1 bar, 25° C., 1 mL/min and 0.25 mol/L). Following removal of the solvent and drying, 5.2 g (97.5%) of product were obtained.

reactant | Ethyl 2-phenyl-2-(3-fluoro-4-nitrophenyl)acetate | C1(=CC=CC=C1)C(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])F | C16H14FNO4
solvent | EtOH | CCO | C2H6O
solvent | EA | 465 mL | CC(OCC)=O | C4H8O2
product | ethyl-2-(4-amino-3-fluorophenyl)-2-phenylacetate | 5.2 g, 97.5% | C(C)OC(C(C1=CC=CC=C1)C1=CC(=C(C=C1)N)F)=O | C16H16FNO2
